US08013104B2
Synthesis of Compound 4: (2-(2-(diallylamino)-2-oxoethyl)dec-3-enoic acid)
A 500 ml, two-neck flask was charged with 105.2 g (500 mmol) dodecenylsuccinic anhydride 100 ml toluene. The flask was equipped with a thermometer and immersed in a water bath. Diallylamine (48.6 g, 500 mmol) was then dripped into the magnetically stirred anhydride plus toluene solution over a 15-minute period. Ice was added to the water bath as required to prevent temperature of the reaction mixture from getting above 35° C. The mixture was then stirred for another 45 minutes at room temperature. The toluene was then removed via rotary evaporator and air sparge to yield 153.4 g (99.8% of theory) of a red, oily liquid. An FTIR trace on this compound was found to have significant absorptions at 2924, 1726, 1605, 1440, 1221, 1174, 972, and 922 wavenumbers.

reactant | dodecenylsuccinic anhydride | 500 mmol, 100 ml, 105.2 g | C(=CCCCCCCCCCC)C1C(=O)OC(C1)=O | C16H26O3
reactant | Diallylamine | 500 mmol, 48.6 g | C(C=C)NCC=C | C6H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(2-(diallylamino)-2-oxoethyl)dec-3-enoic acid | C(C=C)N(C(CC(C(=O)O)C=CCCCCCC)=O)CC=C | C18H29NO3
